* Class D audio amp frontend (to drive a power MOS half bridge)
* analog input
* pwm clock generator
* digital one-shot
* non-overlapping clock
* two floating half-bridge drivers


* Calling the subcircuit
* Xpwm ain lo+ lo- hi+ hi- DAudioDriver freq = 500k dtime = 100n voutp = 1.4 voutn = 0

.subckt DAudioDriver ain lo+ lo- hi+ hi- params: freq = 317k dtime = 50n voutp = 12 voutn = 0
apwm1 ain dfast1 pwm_osc
.model pwm_osc d_pwm(cntl_array = [-2 -1.99 1.99 2]
+ dc_array = [0.1 0.1 0.9 0.9]
+ frequency = {freq} init_phase = 90.0

a6 dfast1 _d1 inv1
.model inv1 d_inverter(rise_delay = 0.3e-9 fall_delay = 0.3e-9
+ input_load = 0.5e-12)

* equalize d1 and _d1
abuf2 dfast1 d1 buff2
.model buff2 d_buffer(rise_delay = 0.3e-9 fall_delay = 0.3e-9
+ input_load = 0.5e-12)

*** one-shot ***
* buffer
abuf1 dfast1 d2 buff1
.model buff1 d_buffer(rise_delay = {dtime} fall_delay = {dtime}
+ input_load = 0.5e-12)
* one-shot 1->0 output
a9 [dfast1 d2] dos xnor3
.model xnor3 d_xnor(rise_delay = 0.2e-9 fall_delay = 0.2e-9
+ input_load = 0.5e-12)
***

* outputs: inverted, non-overlapping
aand1 [d1 dos] dout1 and1
aand2 [_d1 dos] dout2 and1
.model and1 d_and(rise_delay = 0.4e-9 fall_delay = 0.4e-9
+ input_load = 0.5e-12)

* analog out, differential
abridge1 [dout1] [%vd(lo+ lo-)] dac1
abridge2 [dout2] [%vd(hi+ hi-)] dac1
.model dac1 dac_bridge(out_low = {voutn} out_high = {voutp} out_undef = 0
+ input_load = 5.0e-12 t_rise = 20e-9
+ t_fall = 20e-9)

* test
* do we have overlap?
* aandtest [dout1 dout2] dtest and1

.ends
